US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (65 mg, 0.15 mmol) was treated with 4-methoxy-N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide (87 mg, 0.22 mmol, prepared from 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinamine, as described in WO 2009155527 A2 20091223, and 4-methoxybenzene-1-sulfonyl chloride according to the method described In Preparation 15b), 2M sodium carbonate (221 μl, 0.44 mmol) and tetrakis(triphenylphosphino)palladium(0) (9 mg, 0.01 mmol) according to the method described in Example 3 to give 92 mg (76% yield) of the title compound as a solid. Purity 53%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.15 mmol, 65 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 4-methoxy-N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide | COC1=CC=C(C=C1)S(=O)(=O)NC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C18H23BN2O5S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinamine | CC1(OB(OC1(C)C)C=1C=C(C=NC1)N)C | C11H17BN2O2
reactant | 4-methoxybenzene-1-sulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium carbonate | 0.44 mmol, 2M, 221 μl | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphino)palladium(0) | 0.01 mmol, 9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)pyridin-3-yl)-4-methoxybenzenesulfonamide | 92 mg, 76% yield | NC1=NC=NC(=C1C=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H29N9O4S
